US08541455B2
A mixture of 1.9 g (8.8 mmol) of 6-chloro-N,N-dimethylpyridine-3-sulfonamide and 4.6 mL (91.5 mmol) of hydrazine monohydrate in 10 mL of EtOH is heated for 2 hours at 80° C. The precipitate obtained, after cooling to room temperature, is filtered off and then washed with 10 mL of EtOH and dried under vacuum. 1.62 g of 6-hydrazino-N,N-dimethylpyridine-3-sulfonamide are obtained in the form of a white powder.

reactant | 6-chloro-N,N-dimethylpyridine-3-sulfonamide | 8.8 mmol, 1.9 g | ClC1=CC=C(C=N1)S(=O)(=O)N(C)C | C7H9ClN2O2S
reactant | hydrazine monohydrate | 91.5 mmol, 4.6 mL | O.NN
solvent | EtOH | 10 mL | CCO | C2H6O
product | 6-hydrazino-N,N-dimethylpyridine-3-sulfonamide | 1.62 g | N(N)C1=CC=C(C=N1)S(=O)(=O)N(C)C | C7H12N4O2S
